US06736862B2
5,6-Dimethoxy-1-(5-nitro-(2-pyridyl))-indoline was hyrogenated overnight with Pd (5%) on carbon in ethanol/water (8:2) in a shaking “duck”. When the uptake of hydrogen had come to an end, 10% hydrochloric acid was added, the catalyst was filtered off and the remainder was concentrated to dryness. The residue was recrystallized with ethanol and active carbon. The product 6-(5,6-dimethoxyindolin-1-yl)-3-pyridylamine hydrochloride was obtained in a yield of 70.8% (melting point: 168-171° C.).

reactant | 5,6-Dimethoxy-1-(5-nitro-(2-pyridyl))-indoline | COC=1C=C2CCN(C2=CC1OC)C1=NC=C(C=C1)[N+](=O)[O-] | C15H15N3O4
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol water | C(C)O.O
catalyst | Pd | [Pd] | Pd
product | 6-(5,6-dimethoxyindolin-1-yl)-3-pyridylamine hydrochloride | yield of 70.8% | Cl.COC=1C=C2CCN(C2=CC1OC)C1=CC=C(C=N1)N | InChI=1S/C15H17N3O2.ClH/c1-19-13-7-10-5-6-18(12(10)8-14(13)20-2)15-4-3-11(16)9-17-15;/h3-4,7-9H,5-6,16H2,1-2H3;1H
